US07282586B1
Under nitrogen atmosphere, a mixture of 13 g (0.045 mol) 2,9-bis-(1H-tetrazol-5-yl)-[1,10]phenanthroline and 390 ml pyridine was added to a 250 ml three-necked flask. The mixture was then heated to 50° C., and 46 g (0.21 mol) 4-phenylbenzoyl chloride was then added drop by drop. After the adding, the mixture solution was heated to reflux (110° C.) and stirred overnight. After completion of reaction, as shown in scheme 2, the reaction mixture was cooled to room temperature, filtered. Finally, solids were separated, washed by 100 ml methanol, filtered and purified by column chromatography to obtain white products 2,9-bis-(5-biphenyl-4-yl-[1,3,4]oxadiazol-2-yl)-[1,10]phenanthroline 11 g (0.018 mol, yield 40%). MS(m/z, FAB+), 620, 291, 248, 233, 208, 156, 130, 105.

reactant | 2,9-bis-(1H-tetrazol-5-yl)-[1,10]phenanthroline | 0.045 mol, 13 g | N1N=NN=C1C1=NC2=C3N=C(C=CC3=CC=C2C=C1)C1=NN=NN1 | C14H8N10
reactant | 4-phenylbenzoyl chloride | 0.21 mol, 46 g | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
solvent | pyridine | 390 ml | N1=CC=CC=C1 | C5H5N
product | 2,9-bis-(5-biphenyl-4-yl-[1,3,4]oxadiazol-2-yl)-[1,10]phenanthroline | 0.018 mol, 11 g, yield 40% | C1(=CC=C(C=C1)C1=NN=C(O1)C1=NC2=C3N=C(C=CC3=CC=C2C=C1)C=1OC(=NN1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C40H24N6O2
